US05470928
4-Glycidyloxyphenyl benzyl ketone (GPBK)
A 100 ml 3-neck round-bottom flask equipped with a magnetic stir bar, thermometer and reflux condenser was charged with 11.0 g epichlorohydrin, 5.0 g 4-hydroxyphenyl benzyl ketone, and 0.1 ml H2O. The reactants were stirred on a hotplate. NaOH was then added, ~0.2 g per addition, up to a total of 0.95 g NaOH. The rate of NaOH addition was controlled to keep the reaction temperature below 100° C. At the end of the exothermic reaction, excess epichlorohydrin was removed by vacuum distillation with the flask temperature kept below 150° C. The residue was air-dried, then recrystallized twice from ethanol and redried. The yield was 2.8 g (44%), m.p. 81.0°-82.4° C. A 1H-NMR spectrum of this compound, with peak assignments, is provided in FIG. 1.

reactant | epichlorohydrin | 11.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | 4-hydroxyphenyl benzyl ketone | 5.0 g | C(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)O | C14H12O2
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 0.95 g | [OH-].[Na+]
solvent | H2O | 0.1 ml | O | H2O
product | 4-Glycidyloxyphenyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)OCC1CO1 | C17H16O3
